US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (110 mg, 0.325 mmol), (prepared as described for the starting material in Example 1), and 6-fluoro-5-hydroxyindole (59 mg, 0.39 mmol), (prepared as described for the starting material in Example 242), in DMF (1.8 ml) containing potassium carbonate (67 mg, 0.487 mmol) was heated at 90° C. for 2 hours. After cooling, water was added. The solid was separated and triturated with methanol. Water was added and the solid was filtered, washed with water and dried under vacuum to give 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (55 mg, 41%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.325 mmol, 110 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 6-fluoro-5-hydroxyindole | 0.39 mmol, 59 mg | FC1=C(C=C2C=CNC2=C1)O | C8H6FNO
reactant | potassium carbonate | 0.487 mmol, 67 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.8 ml | CN(C)C=O | C3H7NO
product | 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 55 mg, 41% | FC1=C(C=C2C=CNC2=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C24H25FN4O4
